US04207413
Powdered potassium hydroxide (25 g.) was added to a magnetically stirred solution of syrupy methyl L-glucopyranoside (4.8 g.) in dry 1,4-dioxane (30 ml.). This stirred solution was gently heated on an oil bath (reflux), and freshly distilled benzyl chloride (32 ml.) was added dropwise over a 1 hour period. Heating and stirring were continued for an additional 4 hour period, at which time the dioxane was distilled and the resultant mixture cooled, diluted with water (200 ml.) and extracted with chloroform (3×75 ml.). The chloroform extracts were then washed with dilute hydrochloric acid and then with water. The chloroform layer was dried over sodium sulfate and then concentrated at reduced pressure to a syrup (17 g.) which was seen to contain three components (t.l.c., benzene/ethyl acetate 10:1 v/v) having Rf values of approximately 0.4, 0.48, and 0.73. T.L.C. comparison (benzene/ethyl acetate 10:1 v/v) of this mixture with the previously prepared methyl 2,3,4,6-tetra-O-benzyl-D-glucopyranosides and also with benzyl ether showed that the component with the greatest mobility was benzyl ether whereas the one having the least mobility was likely the α-anomer and the middle component the β-anomer. A small portion of this reaction mixture was purified by column chromatography on silica gel by eluting first with benzene to remove benzyl ether and then with a 10:1 mixture of benzene-ethyl acetate to give methyl 2,3,4,6-tetra-O-benzyl-α-L-glucopyranoside as a syrup having [α]D -25.4° (c 3.8, chloroform) as compared with [α]D +23.8° (c 3.42, chloroform), or [α]D +18.7° (c 1.5, chloroform) for methyl 2,3,4,6-tetra-O-benzyl-α-D-glucopyranoside, and crystalline methyl 2,3,4,6-tetra-O-benzyl-β-L-glucopyranoside having m.p. 69.5°-70°, [α]D -12.1° (c 4.2, dioxane) as compared to m.p. 68°-69°, [α]D +11° (c 5.3, dioxane) for methyl 2,3,4,6-tetra-O-benzyl-β-D-glucopyranoside.

reactant | potassium hydroxide | 25 g | [OH-].[K+]
reactant | methyl L-glucopyranoside | 4.8 g | O(C1[C@@H](O)[C@H](O)[C@@H](O)[C@@H](O1)CO)C | C7H14O6
reactant | benzyl chloride | 32 ml | C(C1=CC=CC=C1)Cl | C7H7Cl
solvent | 1,4-dioxane | 30 ml | O1CCOCC1 | C4H8O2
product | methyl 2,3,4,6-tetra-O-benzyl-α-L-glucopyranoside | C(C1=CC=CC=C1)O[C@@H]1[C@H](OC)O[C@H]([C@@H]([C@H]1OCC1=CC=CC=C1)OCC1=CC=CC=C1)COCC1=CC=CC=C1 | C35H38O6
